### ISSUE TITLE
Possible bug in `cancel` tactic?

### ISSUE THREAD

**Issue by jdfm** [hrmacbeth/math2001#17]
Given the ways that we see `cancel` being used in the book, and given some discussions in the Zulip lean community, I think maybe there is a bug in the `cancel` tactic.

Would the following not have allowed us to arrive at the goal `x = y`?

```lean
example {x y : ℝ} (hx: 0 ≤ x) (hy: 0 ≤ y) (hs: x^2 = y^2) : x = y := by
  cancel 2 at hs
```

The original context where I ran into this was when trying to do the following:

```lean
example {x : ℚ} (h1 : x ^ 2 = 4) (h2 : 1 < x) : x = 2 := by
  have h3 :=
    calc
      x^2 = 4 := by rw [h1]
      _ = 2^2 := by numbers
  cancel 2 at h3
```

**Comment by LearnAifromScratch** [comment]
I noticed in the goals it was always looking for an inequality, only way I could get the goals accomplished was change x = 2 to x >= 2

` example {a : ℝ} (h1 : a ^ 2 = 4) (h2 : a > 1) : a ≥ 2 := by
  have h3 :=
  calc
    a ^ 2 = 4 := by rw [h1]
    _ ≥ 4 := by extra
    _ = 2 ^ 2 := by ring
  cancel 2 at h3`

**Comment by mcol** [comment]
I had the same expectation too, and the proof mentioned above failed for me with this error, which I find rather baffling:
```
application type mismatch
  pow_eq_zero h3
argument
  h3
has type
  x ^ 2 = 2 ^ 2 : Prop
but is expected to have type
  x ^ 2 = 0 : Prop
```

**Comment by rzeta0** [comment]
I'm interested in this too.

**Comment by functionalCS** [comment]
> example {x : ℝ} (hx: x^2 = 0) : x = 0 := by
>   cancel x at hx

Try cancel 2 because you are cancelling the ^2 
> Trying to do the following:
> example {x : ℚ} (h1 : x ^ 2 = 4) (h2 : 1 < x) : x = 2 :

The book suggests to show x(x + 2) = 2(x + 2) first, this works:

```
example {x : ℚ} (h1 : x ^ 2 = 4) (h2 : 1 < x) : x = 2 := by
  have h3 :=
  calc
   x * (x + 2) = x^2 + 2 * x := by ring
     _ = 4 + 2 * x := by rw [h1]
     _ = 2 * (x + 2) := by ring
  cancel (x + 2) at h3
```
If you try and cancel x^2 = 2^2 there's no common factor unless you change to an inequality goal.

**Comment by lntricate1** [comment]
Ran into this today, the issue is that `cancel` only defines power tactics for inequalities (`lt_of_pow_lt_pow`, `le_of_pow_le_pow`), and zero (`pow_eq_zero`) but nothing for equalities (`pow_left_inj`). I agree with @jdfm that allowing the cancellation would be consistent with how we see `cancel` used elsewhere, and I especially think it's odd to include it for inequalities but not for equalities. One way to add this functionality is to add the following to Library/Tactic/Cancel.lean:
```lean
macro_rules
| `(tactic | cancel_aux $a at $h) =>
  let h := h.raw.getId
  `(tactic | rw[pow_left_inj (n := $a) (by cancel_discharger) (by cancel_discharger) (by cancel_discharger)] at $(mkIdent h):ident)
```
